US07375134B2
Cbz-L-leucine (2 g, 7.5 mmol) and Cs2CO3 (1.46 g, 4.5 mmol, 0.6 eq) were dissolved in water (20 mL). Water was then removed in vacuo, and the resulting oil was lyophilized for 12 h to give a white solid. To this solid were added 3-methyl-3-(toluenesulfonyl-oxymethyl)oxetane (oxetane tosylate) (1.8 g, 4.5 mmol), and NaI (224 mg,1.5 mmol, 0.2 eq.) which were taken up in DMF (35 mL) and allowed to stir under nitrogen for 48 h. The DMF was then removed in vacuo, and the resulting solid was dissolved in EtOAc (60 mL) and washed with 10% NaHCO3 (20 mL) and saturated NaCl (10 mL) and dried over MgSO4. The solvent was removed under reduced pressure to yield yellow oil which was flash column chromatographed on 200 cm3 of silica gel using 3:1 hexanes:EtOAc as an eluant to give (2S)-2-benzyloxycarbonylamino-4-methyl-pentanoic acid 3-methyloxetan-3-ylmethyl ester (Cbz-Leu oxetane ester) as a yellow thick oil.

reactant | Cbz-L-leucine | 7.5 mmol, 2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | Cs2CO3 | 4.5 mmol, 1.46 g, 0.6 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-methyl-3-(toluenesulfonyl-oxymethyl)oxetane | 4.5 mmol, 1.8 g | CC1(COC1)COS(=O)(=O)C=1C(=CC=CC1)C | C12H16O4S
reactant | NaI | 1.5 mmol, 224 mg, 0.2 eq. | [Na+].[I-]
solvent | water | 20 mL | O | H2O
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | (2S)-2-benzyloxycarbonylamino-4-methyl-pentanoic acid 3-methyloxetan-3-ylmethyl ester | CC1(COC1)COC([C@H](CC(C)C)NC(=O)OCC1=CC=CC=C1)=O | C19H27NO5
